US03941601
4-t.-butyl-2-cyclopentyl-phenol
1134 g of 2-cyclopentyl-phenol, 1400 ml of xylene and 21 g of catalyst K 10 (trade product of Sudchemie) are introduced into an autoclave and 316 g of isobutene are then pumped in at 120°C over a period of 11/2 hours. This is followed by stirring for 15 minutes at 120°C and the catalyst is then removed by suction filtration. After evaporation of the xylene, the residue is separated by fractional distillation in a 1-metre packed laboratory distillation column. The Bp12 mm : 172° - 174°C fraction contains 814 g of 4-t.-butyl-2-cyclopentyl-phenol.

reactant | 2-cyclopentyl-phenol | 1134 g | C1(CCCC1)C1=C(C=CC=C1)O | C11H14O
reactant | isobutene | 316 g | C=C(C)C | C4H8
reactant | xylene | 1400 ml | C=1(C(=CC=CC1)C)C | C8H10
product | butyl-2-cyclopentyl-phenol | C(CCC)C=1C(=C(C=CC1)O)C1CCCC1 | C15H22O
